US07737176B2
Step f): (2Z, 4E)-6-(2,5-dimethoxyphenyl)-6-oxo-3-phenylhexa-2,4-dienoic acid
0.45 g (1.22 mmol) of ethyl (2Z, 4E)-6-(2,5-dimethoxyphenyl)-6-oxo-3-phenylhexa-2,4-dienoate, 20 ml of ethanol, 0.206 g (2.44 mmol) of sodium bicarbonate and 20 ml of water are mixed together and refluxed for three hours. After evaporating off the solvents, the residue is poured into water, acidified with normal hydrochloric acid solution and extracted with dichloromethane. The organic phase is dried (Na2SO4), the solvent is evaporated off and the pasty product obtained is purified by flash chromatography (20/80 heptane/ethyl acetate) (yellow solid; diisopropyl ether; m.p.: 165° C.; 170 mg) and recrystallized (10/6 hexane/ethyl acetate) (0.3 g of yellow solid; 22%).

reactant | ethyl (2Z, 4E)-6-(2,5-dimethoxyphenyl)-6-oxo-3-phenylhexa-2,4-dienoate | 1.22 mmol, 0.45 g | COC1=C(C=C(C=C1)OC)C(/C=C/C(=C/C(=O)OCC)/C1=CC=CC=C1)=O | C22H22O5
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium bicarbonate | 2.44 mmol, 0.206 g | C([O-])(O)=O.[Na+]
solvent | water | 20 ml | O | H2O
product | (2Z, 4E)-6-(2,5-dimethoxyphenyl)-6-oxo-3-phenylhexa-2,4-dienoic acid | COC1=C(C=C(C=C1)OC)C(/C=C/C(=C/C(=O)O)/C1=CC=CC=C1)=O | C20H18O5
